US08754226B2
A flask was charged with triphenylsilanethiol (12 g, 41 mmol), and 1,5-difluoro-2-nitro-4-vinylbenzene (5 g, 27 mmol) in benzene (80 mL), and then (E)-2,2′-(diazene-1,2-diyl)bis(2-methylpropanenitrile) (1.3 g, 8.1 mmol) was added. The mixture was refluxed for 1 hour, then cooled to ambient temperature and concentrated. The residue was purified using silica gel column chromatography with 10% acetone in hexanes to provide (2,4-difluoro-5-nitrophenethylthio)triphenylsilane (13 g, 27 mmol, 100% yield).

reactant | triphenylsilanethiol | 41 mmol, 12 g | C1(=CC=CC=C1)[Si](S)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H16SSi
reactant | 1,5-difluoro-2-nitro-4-vinylbenzene | 27 mmol, 5 g | FC1=C(C=C(C(=C1)F)C=C)[N+](=O)[O-] | C8H5F2NO2
reactant | (E)-2,2′-(diazene-1,2-diyl)bis(2-methylpropanenitrile) | 8.1 mmol, 1.3 g | N(=N\C(C#N)(C)C)/C(C#N)(C)C | C8H12N4
solvent | benzene | 80 mL | C1=CC=CC=C1 | C6H6
product | (2,4-difluoro-5-nitrophenethylthio)triphenylsilane | 27 mmol, 13 g, 100% yield | FC1=C(CCS[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C(=C1)F)[N+](=O)[O-] | C26H21F2NO2SSi
